US07148362B2
A solution of 61 mmol of (S)-1-[4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid in 300 ml of dioxane was treated with 61 mmol of N-methylmorpholine. Thereafter, the reaction mixture was cooled to −8° C., and 61 mmol of isobutyl chloroformate was added. After stirring for 5 min, a solution of 121 mmol of sodium azide in 40 ml water was added while the temperature rose to 0° C. After stirring for 70 min at 0° C., the suspension was filtered over Dicalite®. The filtrate was diluted with 700 ml of toluene and transferred into a separatory funnel. The organic layer was separated, then washed twice with 250 ml of a saturated solution of sodium hydrogencarbonate and twice with 200 ml of a saturated solution of sodium chloride. Thereafter, the organic layer was dried over sodium sulfate and, after addition of 400 ml of toluene, the solvent and the residual isobutylalcohol were evaporated to end with a volume of about 350 ml. The solution was heated gradually to 80° C. and kept at this temperature for 70 min. After cooling, the solution of the intermediate isocyanate was concentrated to about 300 ml and was added dropwise to a solution of 25.4 ml of hydrochloric acid (37%) in 100 ml of dioxane while heating to 45° C. Finally, after complete addition, the temperature was raised to 60° C. for 1 hour and the hydrochloride already started to precipitate. The mixture was cooled to 0° C., and the solid material formed was collected on a filter funnel. After washing with tert-butylmethylether, the product was dried under high vacuum. There was obtained (S)-4-amino-1-[4-(3-fluoro-benzyloxy)-phenyl]-pyrrolidin-2-one hydrochloride as a white solid. MS: m/e=301 (M+H)+.

reactant | (S)-1-[4-(3-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid | 61 mmol | FC=1C=C(COC2=CC=C(C=C2)N2C[C@H](CC2=O)C(=O)O)C=CC1 | C18H16FNO4
reactant | N-methylmorpholine | 61 mmol | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 61 mmol | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium azide | 121 mmol | [N-]=[N+]=[N-].[Na+]
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
solvent | water | 40 ml | O | H2O
product | (S)-4-amino-1-[4-(3-fluoro-benzyloxy)-phenyl]-pyrrolidin-2-one hydrochloride | Cl.N[C@H]1CC(N(C1)C1=CC=C(C=C1)OCC1=CC(=CC=C1)F)=O | InChI=1S/C17H17FN2O2.ClH/c18-13-3-1-2-12(8-13)11-22-16-6-4-15(5-7-16)20-10-14(19)9-17(20)21;/h1-8,14H,9-11,19H2;1H/t14-;/m0./s1
